US04885283
75 mg of [4-methyl-2-[[3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(3-nitrophthalimido)methyl]phosphinic acid were dissolved in 2.5 ml of methanol containing 0.01 g of 10% palladium-on-charcoal. The mixture was hydrogenated for 3 hours and then filtered. The filtrate was evaporated to give 70 mg of [(3-aminophthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid in the form of a yellow foam.

reactant | [4-methyl-2-[[3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl][(3-nitrophthalimido)methyl]phosphinic acid | 75 mg | CC(CC(CP(O)(=O)CN1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O)C(NC(CC(C)C)C(NC)=O)=O)C | C23H33N4O8P
solvent | methanol | 2.5 ml, 0.01 g | CO | CH4O
solvent | palladium-on-charcoal | [Pd] | Pd
product | [(3-aminophthalimido)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid | 70 mg | NC1=C2C(C(=O)N(C2=O)CP(O)(=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)=CC=C1 | C23H35N4O6P
